
VDD_12V VDD_12V 0
5V_MEAS_DC 5V_MEAS_DC 0 
VDD_3.3V VDD_3.3V 0 
5V_MEAS_AC 5V_MEAS_AC 0 
VDD_5V VDD_5V 0 
GND_MEAS_AC GND_MEAS_AC 0 
VDD_12V_INT VDD_12V_INT 0 
VDD_5V_INT VDD_5V_INT 0 
VDD_5V_EXT VDD_5V_EXT 0 
VDD_12V_EXT VDD_12V_EXT 0 
GND_MEAS_DC GND_MEAS_DC 0 
VBIAS_DC_CURR VBIAS_DC_CURR 0 
VDD_0.625V VDD_0.625V 0 
VBIAS_AC_CURR_A VBIAS_AC_CURR_A 0 
VBIAS_AC_CURR_B VBIAS_AC_CURR_B 0 
VBIAS_AC_CURR_C VBIAS_AC_CURR_C 0 
R379 N1850915 N1850867 10k
R190 N1722096 N1846775 1M
D172 OINA VDD_3.3V TMMBAT46
R315 VDD_3.3V N1785064 36k 0,1%
C243 VH_Q3 GND_ISO_Q3 2.2uF/50V
D140 N1762064 DIAG1_Q1 GREEN
J60 INM-DIAG2_Q2 DIAG1_Q2 SD_Q2 BUS_N CON4
R191 GND_MEAS_AC N1722096 2k
D173 OINB VDD_3.3V TMMBAT46
C276 BUS_N VDD_12V_EXT 470nF/50V
R316 N1784950 VDD_0.625V 10
Q7 BUS_N N1781183 N1781293 BUS_N BUS_N N1781293 N1781293 N1781293 STS6NF20V
J61 INM-DIAG2_Q1 DIAG1_Q1 SD_Q1 BUS_N CON4
C244 N1764364 GND_ISO_Q3 1n/50V
C212 CS_Q1 BUS_N 47p/50V
D141 N1761936 INM-DIAG2_Q1 GREEN
R480 N1803431 N1803317 definire
D174 OINC VDD_3.3V TMMBAT46
C277 BUS_N VDD_5V_EXT 470nF/50V
J62 INM-DIAG2_Q3 DIAG1_Q3 SD_Q3 BUS_N CON4
C213 VH_Q1 GND_ISO_Q1 1uF/50V
D142 N1763408 DIAG1_Q2 GREEN
R317 N1721596 N1722026 10k
R481 N1803431 VBIAS_DC_CURR definire
D175 OOUT VDD_3.3V TMMBAT46
D143 N1763180 INM-DIAG2_Q2 GREEN
C246 CS_Q3 BUS_N 47p/50V
C214 VH_Q2 GND_ISO_Q2 100nF/25V
R318 N1721592 N1722018 10k
U48 N1814870 BUS_N N1804444 GND_MEAS_DC DCH010505SN7
C278 BUS_P CENTRO_BUS 470uF/500V
R482 VDD_3.3V N15650753 definire
R450 N15522488 N15522495 240k
D176 VNB BUS_P STPSC20H12CGY
D144 N1764654 DIAG1_Q3 GREEN
C279 VL_Q3 GND_ISO_Q3 100nF/25V
C247 VH_Q3 GND_ISO_Q3 1uF/50V
U49 N1716744 N1716670 N1716654 N1716732 BUS_N TSV911ILT
R483 N15650639 VBIAS_AC_CURR_B 10
R451 N15522495 BUS_N 240k
D177 BUS_N VNB STPSC20H12CGY
D145 N1764528 INM-DIAG2_Q3 GREEN
C216 VREG_ISO_Q2 GND_ISO_Q2 4.7uF/50V
R484 N15650753 BUS_N definire
D178 VNC BUS_P STPSC20H12CGY
C380 BUS_N OOUT 100nF/16V
D26 N1781353 N1781293 GREEN
C217 N1762596 BUS_N 100p/50V
R485 VDD_3.3V N15651221 definire
D179 BUS_N VNC STPSC20H12CGY
C381 VDD_5V BUS_N 100nF/16V
J35 VDD_5V CK_Q1 CS_Q1 SDI_Q1 SDO_Q1 BUS_N SPI4
R486 N15651107 VBIAS_AC_CURR_C 10
C382 BUS_N VDD_5V 470nF/50V
C219 VREG_Q2 BUS_N 100nF/25V
J36 PWM_INP_Q1 PWM_Q1
R487 N15651221 BUS_N definire
R455 N15616123 N1799716 definire
C383 BUS_P CENTRO_BUS 470uF/500V
J69 BUS_P BUS_P IO+
C351 BUS_N N1853731 100nF/16V
C384 CENTRO_BUS BUS_N 470uF/500V
C352 VDD_5V BUS_N 100nF/16V
J38 PWM_INP_Q2 PWM_Q1
C320 BUS_N N1716732 100nF/16V
C385 N2015625 BUS_N 470nF/50V
C353 VDD_5V BUS_N 100nF/16V
J39 VDD_5V CK_Q2 CS_Q2 SDI_Q2 SDO_Q2 BUS_N SPI4
C321 5V_MEAS_DC GND_MEAS_DC 100nF/16V
C354 VDD_5V BUS_N 100nF/16V
C355 BUS_N VDD_3.3V 100nF/16V
R270 GND_ISO_Q2 N1763002 1K
C323 BUS_N V_BUS_UP 100nF/16V
C388 N2015625 BUS_N 470uF/25V
C356 BUS_N OINC 100nF/16V
R271 VDD_5V N1763180 750
C389 VDD_12V_INT BUS_N 470uF/25V
C357 BUS_N OINB 100nF/16V
R272 GOFF_Q2 GATE2 4.7
C325 VDD_3.3V BUS_N 100nF/16V
C358 BUS_N OINA 100nF/16V
R273 VDD_5V N1763408 750
C326 BUS_N N1717296 100nF/16V
C359 N1722148 BUS_N 4.7u/16V
R274 GON_Q2 GATE2 10
C327 5V_MEAS_DC GND_MEAS_DC 100nF/16V
R275 GATE2 VL_Q2 47k
R276 GND_ISO_Q3 N1764578 0
C329 BUS_N V_BUS_DOWN 100nF/16V
R277 INM-DIAG2_Q3 N1764152 100
R278 PWM_INP_Q3 N1763956 100
R279 N1763966 N1764356 1K
C401 BUS_N N2041193 100nF/16V
F10 5V_MEAS_AC N1855414 mpz2012
R380 VDD_0.625V N1851009 6.04k
F11 VDD_3.3V N1851361 mpz2012
R381 N1850919 N1850915 6.04k
C403 BUS_N ZVD_A 100nF/16V
F12 5V_MEAS_AC N1853053 mpz2012
R382 VLINEB.S N1850919 68.1
C404 BUS_N N2048266 100nF/16V
F13 VDD_3.3V N1853369 mpz2012
R383 GND_MEAS_AC N1851321 2k
C405 BUS_N ZVD_B 100nF/16V
F14 VDD_5V N1857324 mpz2012
R384 N1851573 N1851429 1M
C280 VL_Q3 GND_ISO_Q3 2.2uF/50V
R352 N1716606 N1716970 4.7k
U50 N1716780 V_BUS_UP_RAW N1717052 GND_MEAS_DC BUS_N N1716970 N1716978 N1717112 AMC1301
C406 BUS_N N2048789 100nF/16V
U4 VDD_5V VDD_3.3V BUS_N LD29080S33R
R385 V_LINE_B N1851573 1M
C281 VL_Q3 GND_ISO_Q3 1uF/50V
R353 N1716602 N1716978 4.7k
U51 N1716116 N1716120 N1716176 N1717296 BUS_N TSV911ILT
C407 BUS_N ZVD_C 100nF/16V
R386 N1851325 N1851429 1M
U5 UN32768 UN32767 N1781489 VDD_3.3V BUS_N STLM20W87F
R64 N1781183 FAN 22
C282 VL_Q2 GND_ISO_Q2 100nF/25V
R354 N1716744 N1716602 4.7k
U52 N1716052 V_BUS_DOWN_RAW N1716314 GND_MEAS_DC BUS_N N1716262 N1716238 N1716384 AMC1301
C408 BUS_P CENTRO_BUS 100nF/630V
D180 VNA BUS_P STPSC20H12CGY
F17 N1721690 VDD_3.3V mpz2012
R387 GND_MEAS_AC N1851325 2k
U53 N1799716 N1796938 N1797008 N1870230 BUS_N TSV911ILT
C283 VL_Q2 GND_ISO_Q2 2.2uF/50V
R323 N1721714 N1721592 10k
R355 N1716670 N1716606 4.7k
C409 BUS_P CENTRO_BUS 100nF/630V
D181 BUS_N VNA STPSC20H12CGY
F18 N1850965 VDD_3.3V mpz2012
R388 N1853017 N1853637 10k
U54 N15615079 N1801753 N1801655 N1858365 BUS_N TSV911ILT
LEM1 V_LINE_A_IN_LEM V_LINE_A_IN_LEM V_LINE_A_IN_LEM V_LINE_A V_LINE_A V_LINE_A UN32766 N15616123 BUS_N N1857324 LTSR 25-NP
C284 VL_Q2 GND_ISO_Q2 1uF/50V
C220 N1762612 GND_ISO_Q2 150p/50V
R324 N1721644 N1721596 10k
R356 BUS_N N1716744 7.5k
J70 BUS_P_OUT BUS_P_OUT IO-
F19 N1853731 VDD_3.3V mpz2012
R389 N1853005 N1853633 10k
U55 N1802035 N1802161 N1802063 N1858099 BUS_N TSV911ILT
LEM2 V_LINE_B_IN_LEM V_LINE_B_IN_LEM V_LINE_B_IN_LEM V_LINE_B V_LINE_B V_LINE_B UN32765 N15616064 BUS_N N1857526 LTSR 25-NP
C221 N1762794 BUS_N 100p/50V
C285 VL_Q1 GND_ISO_Q1 100nF/25V
R325 VDD_0.625V N1721714 6.04k
R357 N1716654 N1716670 7.5k
TP18 ZVD_A TestPoint
D183 N2015963 N2015625 TMMBAT46FILM
U56 N1803305 N1803431 N1803317 N1878190 BUS_N TSV911ILT
LEM3 V_LINE_C_IN_LEM V_LINE_C_IN_LEM V_LINE_C_IN_LEM V_LINE_C V_LINE_C V_LINE_C UN32764 N15615351 BUS_N N1857736 LTSR 25-NP
C222 VREG_Q2 BUS_N 4.7uF/50V
C286 VL_Q1 GND_ISO_Q1 2.2uF/50V
R326 N1721640 N1721644 6.04k
R358 V_BUS_UP N1716654 68.1
TP19 ZVD_B TestPoint
D184 N2015545 VDD_5V_INT TMMBAT46FILM
U57 N1851009 N1850915 N1850919 N1850965 BUS_N TSV911ILT
LEM4 N1803387 N1803387 N1803387 N1803403 N1803403 N1803403 UN32763 N15623808 BUS_N N1877893 LTSR 25-NP
C287 VL_Q1 GND_ISO_Q1 1uF/50V
C223 N1762592 BUS_N 100p/50V
C255 VH_Q3 GND_ISO_Q3 100nF/25V
R327 VLINEA.S N1721640 68.1
R359 GND_MEAS_DC N1717052 1.6k
J73 VDD_5V_INT VDD_5V VDD_5V_EXT CON3
U58 N1855414 N1851325 N1851321 GND_MEAS_AC BUS_N N1851269 N1851277 VDD_3.3V AMC1301
U26 BUS_N SDO_Q1 SDI_Q1 CS_Q1 CK_Q1 VREG_Q1 VDD_5V N1761544 N1761340 DIAG1_Q1 N1761336 BUS_N GND_ISO_Q1 VL_Q1 VREG_ISO_Q1 N1761768 VH_Q1 N1761374 N1762002 GON_Q1 GOFF_Q1 UN32762 VL_Q1 N1761764 STGAP1S
C224 VREG_ISO_Q2 GND_ISO_Q2 100nF/25V
C256 BUS_N VDD_12V 100nF/25V
F1 V_AC_A N2743221 30A
J74 VDD_12V_INT VDD_12V VDD_12V_EXT CON3
U59 N1853053 N1853333 N1853329 GND_MEAS_AC BUS_N N1853277 N1853285 VDD_3.3V AMC1301
J10 PWM_INP_Q1 BUS_N PWM_INP_Q2 BUS_N PWM_INP_Q3 BUS_N FAN UN32761 UN32760 VDD_3.3V BUS_N BUS_N UN32759 VDD_5V VDD_12V VDD_12V ZVD_C VLINEC.S VLINEC.S ZVD_C ZVD_B VLINEB.S VLINEB.S ZVD_B ZVD_A VLINEA.S VLINEA.S ZVD_A UN32758 OINA UN32757 OINB OOUT OINC V_BUS_UP OOUT V_BUS_DOWN V_BUS_UP TEMP V_BUS_DOWN CON40A
C225 VH_Q2 GND_ISO_Q2 2.2uF/50V
J42 PWM_INP_Q3 PWM_Q1
F2 V_AC_B N1862782 30A
R461 VDD_3.3V N15630392 definire
D187 N2017440 N2016636 TMMBAT46
J75 CENTRO_BUS CENTRO_BUS BUS_M
C226 N1763002 GND_ISO_Q2 1n/50V
J43 VDD_5V CK_Q3 CS_Q3 SDI_Q3 SDO_Q3 BUS_N SPI4
U28 BUS_N SDO_Q2 SDI_Q2 CS_Q2 CK_Q2 VREG_Q2 VDD_5V N1762794 N1762592 DIAG1_Q2 N1762596 BUS_N GND_ISO_Q2 VL_Q2 VREG_ISO_Q2 N1763002 VH_Q2 N1762612 N1763252 GON_Q2 GOFF_Q2 UN32756 VL_Q2 N1763006 STGAP1S
F3 V_AC_C N2747121 30A
R462 N15630282 VBIAS_AC_CURR_A 10
J76 BUS_N BUS_N VOUT-
D188 N2018396 N2018424 TMMBAT46
C390 VDD_5V_INT BUS_N 470uF/25V
F4 VDD_5V N1813981 mpz2012
R463 N15630392 BUS_N definire
D189 N1761760 VH_Q1 STTH112A
C391 VDD_5V_INT BUS_N 470nF/50V
C228 CS_Q2 BUS_N 47p/50V
F5 VDD_5V N1814870 mpz2012
R464 N1799716 BUS_N definire
R432 N2041237 N1722018 0
C360 N1851361 BUS_N 4.7u/16V
R400 OINC N1802063 68.1
F6 N1804444 5V_MEAS_DC mpz2012
C229 VH_Q2 GND_ISO_Q2 1uF/50V
R465 N1796938 N1797008 definire
C361 N1853369 BUS_N 4.7u/16V
R401 OINB N1801655 68.1
F7 N1814483 5V_MEAS_AC mpz2012
R466 VBIAS_AC_CURR_A N1796938 definire
C362 5V_MEAS_AC GND_MEAS_AC 1uF/16V
R402 OINA N1797008 68.1
F8 5V_MEAS_AC N1721746 mpz2012
J48 BUS_P_OUT BUS_P_OUT VOUT+
R467 N15616064 N15615079 definire
C395 BUS_P N2016636 470nF/50V
R403 OOUT N1803317 68.1
C363 VDD_5V BUS_N 1uF/16V
F9 VDD_3.3V N1722148 mpz2012
C331 VDD_3.3V BUS_N 100nF/16V
R468 N15615079 BUS_N definire
R436 ZVD_A N2041147 68.1
C396 N2019598 N2019602 470nF/50V
C364 5V_MEAS_AC GND_MEAS_AC 1uF/16V
C300 BUS_N VDD_0.625V 100nF/16V
R469 N1801753 N1801655 definire
C397 N2019598 BUS_N 470nF/50V
C365 5V_MEAS_AC GND_MEAS_AC 1uF/16V
C333 BUS_N VDD_3.3V 100nF/16V
R280 SD_Q3 N1763952 100
C398 N2018424 BUS_N 470uF/25V
C366 5V_MEAS_AC GND_MEAS_AC 1uF/16V
R281 N1764360 GND_ISO_Q3 1K
C302 BUS_N N1721690 100nF/16V
D200 GATE3 VH_Q3 DIODE_GATE
R439 N2045034 N1722026 0
C335 BUS_N VDD_3.3V 100nF/16V
R282 GND_ISO_Q3 N1764364 1K
C303 BUS_N VDD_0.625V 100nF/16V
D201 VL_Q2 GATE2 DIODE_GATE
C336 BUS_N VDD_3.3V 100nF/16V
R283 VDD_5V N1764528 750
C304 BUS_N VLINEA.S 100nF/16V
D202 GATE2 VH_Q2 DIODE_GATE
R284 GOFF_Q3 GATE3 4.7
R252 GND_ISO_Q1 N1762002 0
D203 VL_Q1 GATE1 DIODE_GATE
C338 BUS_N N1850965 100nF/16V
R253 INM-DIAG2_Q1 N1761544 100
R285 VDD_5V N1764654 750
D204 GATE1 VH_Q1 DIODE_GATE
C339 5V_MEAS_AC GND_MEAS_AC 100nF/16V
R254 PWM_INP_Q1 N1761340 100
R286 GON_Q3 GATE3 10
R255 N1761374 N1761760 1K
R287 GATE3 VL_Q3 47k
R256 SD_Q1 N1761336 100
R257 N1761764 GND_ISO_Q1 1K
C410 BUS_P CENTRO_BUS 100nF/630V
R258 GND_ISO_Q1 N1761768 1K
C411 CENTRO_BUS BUS_N 100nF/630V
F20 VDD_5V N1857526 mpz2012
R390 VDD_0.625V N1853017 6.04k
R259 VDD_5V N1761936 750
C412 CENTRO_BUS BUS_N 100nF/630V
F21 VDD_5V N1857736 mpz2012
R391 N1853185 N1853005 6.04k
TP20 ZVD_C TestPoint
C413 CENTRO_BUS BUS_N 100nF/630V
F22 N1858099 VDD_3.3V mpz2012
R392 VLINEC.S N1853185 68.1
R360 N1823967 N18239491 1M
Y3 VDD_12V N1781293 FAN2
C414 BUS_N VDD_3.3V 100nF/16V
TP21 OINA TestPoint
F23 N1858365 VDD_3.3V mpz2012
R393 GND_MEAS_AC N1853329 2k
R361 BUS_P N1823967 1M
C35 BUS_N N1781485 100nF/16V
R71 N1781489 N1781485 470
C415 BUS_N N15630392 100nF/16V
TP22 OINB TestPoint
F24 N1870230 VDD_3.3V mpz2012
R394 N1853581 N1853437 1M
U60 N1853017 N1853005 N1853185 N1853731 BUS_N TSV911ILT
R362 V_BUS_UP_RAW N18239491 1M
C68 BUS_N TEMP 100nF/16V
C416 BUS_N VBIAS_AC_CURR_A 100nF/16V
TP23 OINC TestPoint
R395 V_LINE_C N1853581 1M
R363 GND_MEAS_DC V_BUS_UP_RAW 1.6k
C291 GND_MEAS_AC 5V_MEAS_AC 100nF/16V
C417 BUS_N VDD_3.3V 100nF/16V
TP24 VLINEA.S TestPoint
U62 N2019598 N2017440 N2019485 N2018424 BUS_N N2017440 N2017440 N2017440 BUS_N BUS_N BUS_N BUS_N BUS_N BUS_N BUS_N BUS_N VIPER26K
R396 N1853333 N1853437 1M
R364 N1824081 N18240571 1M
U30 BUS_N SDO_Q3 SDI_Q3 CS_Q3 CK_Q3 VREG_Q3 VDD_5V N1764152 N1763956 DIAG1_Q3 N1763952 BUS_N GND_ISO_Q3 VL_Q3 VREG_ISO_Q3 N1764364 VH_Q3 N1763966 N1764578 GON_Q3 GOFF_Q3 UN32755 VL_Q3 N1764360 STGAP1S
C418 BUS_N N15634783 100nF/16V
TP25 VLINEB.S TestPoint
D190 N1763010 VH_Q2 STTH112A
U63 N2041237 N2045034 N2041147 N2041193 BUS_N TSV911ILT
C39 VDD_3.3V BUS_N 10uF/50V
F27 5V_MEAS_DC N1716780 mpz2012
R397 GND_MEAS_AC N1853333 2k
R365 BUS_N N1824081 1M
C419 BUS_N VBIAS_DC_CURR 100nF/16V
TP26 VLINEC.S TestPoint
D191 N1764356 VH_Q3 STTH112A
U64 N2048310 N2048434 N2048232 N2048266 BUS_N TSV911ILT
F28 N1717112 VDD_3.3V mpz2012
R398 N1853633 N1853277 10k
R366 V_BUS_DOWN_RAW N18240571 1M
C294 5V_MEAS_AC GND_MEAS_AC 100nF/16V
U65 N2048833 N2048957 N2048755 N2048789 BUS_N TSV911ILT
F29 5V_MEAS_DC N1716052 mpz2012
R399 N1853637 N1853285 10k
R367 GND_MEAS_DC V_BUS_DOWN_RAW 1.6k
U66 N15630392 N15630282 N15630282 VDD_3.3V BUS_N TSV911ILT
J1 V_AC_C N234113 V_AC_B N1900688 V_AC_A LINE
C232 VH_Q3 GND_ISO_Q3 100nF/25V
C200 VREG_ISO_Q1 GND_ISO_Q1 4.7uF/50V
C296 N1722148 BUS_N 100nF/16V
R368 N1717166 N1716238 4.7k
U67 N15634783 N15634669 N15634669 VDD_3.3V BUS_N TSV911ILT
J50 VDD_12V_EXT BUS_N VDD_12V
C265 VH_Q2 GND_ISO_Q2 100nF/25V
C201 N1761336 BUS_N 100p/50V
R369 N1717158 N1716262 4.7k
U68 N15650753 N15650639 N15650639 VDD_3.3V BUS_N TSV911ILT
J51 VDD_5V_EXT BUS_N VDD_5V
C298 BUS_N VDD_3.3V 100nF/16V
C234 VREG_ISO_Q3 GND_ISO_Q3 4.7uF/50V
C266 BUS_N VDD_12V 100nF/25V
U69 N15651221 N15651107 N15651107 VDD_3.3V BUS_N TSV911ILT
R470 VBIAS_AC_CURR_B N1801753 definire
C299 BUS_N N1785064 100nF/16V
C203 VREG_Q1 BUS_N 100nF/25V
C267 VH_Q1 GND_ISO_Q1 100nF/25V
C235 N1763952 BUS_N 100p/50V
U37 VDD_12V BUS_N VH_Q3 GND_ISO_Q3 VL_Q3 BUS_N GND_ISO_Q3 SPDC5WS
R471 N1802035 BUS_N definire
C268 BUS_N VDD_12V 100nF/25V
C204 N1761374 GND_ISO_Q1 150p/50V
U38 VDD_12V BUS_N VH_Q2 GND_ISO_Q2 VL_Q2 BUS_N GND_ISO_Q2 SPDC5WS
R472 N15615351 N1802035 definire
R440 N2048310 N1851277 0
R309 V_LINE_A N1824804 1M
R152 N1781183 BUS_N 33k
C205 N1761544 BUS_N 100p/50V
C237 VREG_Q3 BUS_N 100nF/25V
U39 VDD_12V BUS_N VH_Q1 GND_ISO_Q1 VL_Q1 BUS_N GND_ISO_Q1 SPDC5WS
R473 N1802161 N1802063 definire
D199 VL_Q3 GATE3 DIODE_GATE
R441 ZVD_B N2048232 68.1
C238 N1763966 GND_ISO_Q3 150p/50V
C206 VREG_Q1 BUS_N 4.7uF/50V
R474 VBIAS_AC_CURR_C N1802161 definire
R442 N2048434 N1851269 0
C370 VDD_5V BUS_N 1uF/16V
C207 N1761340 BUS_N 100p/50V
C239 N1764152 BUS_N 100p/50V
R475 VDD_3.3V N15634783 definire
R443 N2048833 N1853285 0
R411 N2016636 BUS_P 22
C371 5V_MEAS_DC GND_MEAS_DC 1uF/16V
C208 VREG_ISO_Q1 GND_ISO_Q1 100nF/25V
R476 N15634669 VBIAS_DC_CURR 10
R444 ZVD_C N2048755 68.1
R412 N2020695 N2018396 22
C372 VDD_3.3V BUS_N 4.7u/16V
C340 BUS_N VDD_0.625V 100nF/16V
C209 VH_Q1 GND_ISO_Q1 2.2uF/50V
RV4 N2747121 V_LINE_C_IN_LEM S14K275
R477 N15634783 BUS_N definire
R445 N2048957 N1853277 0
R413 BUS_N N2019602 22
C373 VDD_3.3V BUS_N 4.7u/16V
C341 BUS_N VLINEB.S 100nF/16V
R157 TEMP N1781489 5.1k
RV5 N1862782 V_LINE_B_IN_LEM S14K275
R478 N15623808 N1803305 definire
R446 BUS_P N15522296 240k
R414 N2019485 N2018424 22
R158 TEMP BUS_N 10k
RV6 N2743221 V_LINE_A_IN_LEM S14K275
R479 N1803305 BUS_N definire
R447 N15522296 N15522305 240k
R415 BUS_N N2019485 22
C343 N1851361 BUS_N 100nF/16V
R448 N15522305 CENTRO_BUS 240k
R128 VDD_12V N1781353 5.6k
R449 CENTRO_BUS N15522488 240k
C345 5V_MEAS_AC GND_MEAS_AC 100nF/16V
R260 GOFF_Q1 GATE1 4.7
C378 5V_MEAS_DC GND_MEAS_DC 1uF/16V
C346 BUS_N VDD_0.625V 100nF/16V
R261 VDD_5V N1762064 750
C379 5V_MEAS_DC GND_MEAS_DC 1uF/16V
C347 BUS_N VLINEC.S 100nF/16V
R262 GON_Q1 GATE1 10
R263 GATE1 VL_Q1 47k
Q10 VNA GATE1 GND_ISO_Q1 SCTW100N65G2AG
C349 N1853369 BUS_N 100nF/16V
R264 GND_ISO_Q2 N1763252 0
C317 GND_MEAS_DC 5V_MEAS_DC 100nF/16V
Q11 CENTRO_BUS GATE1 GND_ISO_Q1 SCTW100N65G2AG
R265 INM-DIAG2_Q2 N1762794 100
Q12 VNB GATE2 GND_ISO_Q2 SCTW100N65G2AG
R266 PWM_INP_Q2 N1762592 100
Q13 CENTRO_BUS GATE2 GND_ISO_Q2 SCTW100N65G2AG
R267 N1762612 N1763010 1K
C420 BUS_N VDD_3.3V 100nF/16V
Q14 VNC GATE3 GND_ISO_Q3 SCTW100N65G2AG
C41 VDD_3.3V BUS_N 100nF/16V
R268 SD_Q2 N1762596 100
C421 BUS_N N15650753 100nF/16V
Q15 CENTRO_BUS GATE3 GND_ISO_Q3 SCTW100N65G2AG
F30 N1716384 VDD_3.3V mpz2012
R269 N1763006 GND_ISO_Q2 1K
C422 BUS_N VBIAS_AC_CURR_B 100nF/16V
F31 N1716732 VDD_3.3V mpz2012
C198 VH_Q1 GND_ISO_Q1 100nF/25V
C423 BUS_N VDD_3.3V 100nF/16V
TP30 VDD_0.625V TestPoint
F32 N1717296 VDD_3.3V mpz2012
R370 N1716116 N1717158 4.7k
C424 BUS_N N15651221 100nF/16V
TP31 V_BUS_UP TestPoint
F33 N1878190 VDD_3.3V mpz2012
R371 N1716120 N1717166 4.7k
C104 CENTRO_BUS BUS_N 470uF/500V
C425 BUS_N VBIAS_AC_CURR_C 100nF/16V
TP32 V_BUS_DOWN TestPoint
F34 VDD_5V N1877893 mpz2012
R372 BUS_N N1716116 7.5k
C105 BUS_P BUS_N 100nF/1kV
TP33 OOUT TestPoint
F35 N2041193 VDD_3.3V mpz2012
R373 N1716176 N1716120 7.5k
F36 N2048266 VDD_3.3V mpz2012
L12 BUS_P N2020695 BUS_N N2017440 N2015963 N2015545 N2015545 BUS_N 2.2mH
R52 N1824804 N1846775 1M
C270 VDD_12V_EXT BUS_N 10uF/50V
U40 N1721746 N1722096 N1722100 GND_MEAS_AC BUS_N N1722026 N1722018 VDD_3.3V AMC1301
R310 GND_MEAS_AC N1722100 2k
R374 V_BUS_DOWN N1716176 68.1
F37 N2048789 VDD_3.3V mpz2012
L13 N2015625 VDD_12V_INT 4.7uH
C271 VDD_5V_EXT BUS_N 10uF/50V
U41 N1813981 BUS_N N1814483 GND_MEAS_AC DCH010505SN7
R375 GND_MEAS_DC N1716314 1.6k
L14 V_LINE_A VNA UN32754 UN32753 UN32752 UN32751 UN32750 UN32749 UN32748 UN32747 UN32746 UN32745 UN32744 UN32743 UN32742 UN32741 506uH
R376 N1850867 N1851269 10k
U42 N1785064 N1784950 N1784950 VDD_3.3V BUS_N TSV911ILT
C240 VREG_Q3 BUS_N 4.7uF/50V
L15 V_LINE_B VNB UN32740 UN32739 UN32738 UN32737 UN32736 UN32735 UN32734 UN32733 UN32732 UN32731 UN32730 UN32729 UN32728 UN32727 506uH
R377 N1850871 N1851277 10k
C241 N1763956 BUS_N 100p/50V
U43 N1721714 N1721644 N1721640 N1721690 BUS_N TSV911ILT
L16 V_LINE_C VNC UN32726 UN32725 UN32724 UN32723 UN32722 UN32721 UN32720 UN32719 UN32718 UN32717 UN32716 UN32715 UN32714 UN32713 506uH
R378 N1851009 N1850871 10k
R314 N1785064 BUS_N 8,45k 0.1%
C210 N1761768 GND_ISO_Q1 1n/50V
C242 VREG_ISO_Q3 GND_ISO_Q3 100nF/25V
.END
